US06759557B2
Cyclopentadecanone of Synthesis Example 3 was replaced by civetone, and the ketone group was reduced under the same conditions as in Synthesis Example 3, to give 9-cycloheptadecenol.

reactant | Cyclopentadecanone | C1(CCCCCCCCCCCCCC1)=O | C15H28O
reactant | civetone | C1CCC/C=C\CCCCCCCC(=O)CCC1 | C17H30O
product | 9-cycloheptadecenol | C1(CCCCCCCC=CCCCCCCC1)O | C17H32O
